US08138181B2
Step 3F: Preparation of 5-(8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-4-yl)oxazole:
To 8-Methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline-4-carbaldehyde (210 mg, 0.556 mmol) and 1-(isocyanomethylsulfonyl)-4-methylbenzene (130 mg, 0.668 mmol) in MeOH (5 mL) was added K2CO3 (154 mg, 1.11 mmol), followed by heating to reflux for 3 hours. The reaction was then cooled to ambient temperature, concentrated and purified by flash column chromatography (EtOAc/MeOH 10:1) providing the desired product (73%). MS APCI (+) m/z 417.2 (M+1) detected.

reactant | 8-Methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline-4-carbaldehyde | 0.556 mmol, 210 mg | COC=1C=CC=C2C(=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C=O | C21H19N3O4
reactant | 1-(isocyanomethylsulfonyl)-4-methylbenzene | 0.668 mmol, 130 mg | [N+](#[C-])CS(=O)(=O)C1=CC=C(C=C1)C | C9H9NO2S
reactant | K2CO3 | 1.11 mmol, 154 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | 5-(8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-4-yl)oxazole | 73% | COC=1C=CC=C2C(=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C2=CN=CO2 | C23H20N4O4
